* C:\Users\xiang\OneDrive - Virginia Tech\xiangzhang_VT_archive\ECE 5254 Modeling\HW-3-model\HW3_Buck_Zo.sxsch
*#SIMETRIX
.node_map Vp 27
.node_map Vout 25
.node_map io 26
.ac DEC 25 100 1Meg
.print
+ ALL
.options
+ PSP_START=3m
+ PSP_NPT=10001
+ POP_ITRMAX=200
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.pop
+ TRIG_GATE={TRIG_GATE}
+ TRIG_COND=0_TO_1
+ MAX_PERIOD=10u
+ CONVERGENCE=10f
+ CYCLES_BEFORE_LAUNCH=200
+ TD_RUN_AFTER_POP_FAILS=0
*.tran 4m 0


C 25 21 1m IC=2
H2 26 0 VH2$TP_CCVS 1 
VH2$TP_CCVS 22 0 0
I2 25 22 AC 10m 0
V$IPROBE1 18 25 0.0
.PRINT I(V$IPROBE1)
.GRAPH IPROBE1#P axisType="grid" persistence=-1 curveLabel="IL" analysis="tran|pop" xLog="auto" yLog="lin"  nowarn=true disabled=false 
L 16 17 150n
.PRINT V(#Vout)
.GRAPH :#Vout axisType="auto" persistence=-1 curveLabel="Vout" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe3  
.PRINT V(#Vout)
.PRINT V(#io)
.GRAPH "db(:#Vout/:#io)" Curvelabel="Gain_Zo" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(-:#Vout/:#io)" Curvelabel="Phase_Zo" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
Rc 21 0 1m
Rl 18 17 2m
Ro 25 0 200m
X$S2 16 0 20 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$S3 15 16 19 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$U2 19 20 0 27 23 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=1m VOL=0 VOH=5 DELAY=2p
V6 27 0 167m
V7 23 0 SAW V1=0 V2=1 FREQ=1000000 DELAY=0 OFF_UNTIL_DELAY=NO
V8 15 0 12
X3 19 24 PERIODIC_OP vars: VREF=2.5 VOL=0 VOH=5 HYSTWD=2m DIVIDE_BY_2=0 IC=0 DELAY=0 TRIG_COND='0_TO_1'
.end
