* C:\Users\xiang\OneDrive - Virginia Tech\xiangzhang_VT_archive\ECE 5254 Modeling\HW-3-model\HW3_Ref_SR_Buck_2024 - 副本.sxsch
*#SIMETRIX
.node_map Vc 33
.node_map Vp 32
.node_map Vout 34
.ac DEC 100 10 1Meg
.print
+ ALL
.options
+ PSP_START=180u
+ PSP_END=500u
+ PSP_NPT=1001
+ POP_ITRMAX=200
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.pop
+ TRIG_GATE={TRIG_GATE}
+ TRIG_COND=0_TO_1
+ MAX_PERIOD=2u
+ CONVERGENCE=1u
+ CYCLES_BEFORE_LAUNCH=100
+ TD_RUN_AFTER_POP_FAILS=-1
*.tran 2m 0


C1 25 33 83.33u IC=0
C2 27 26 735.29n IC=0
C3 26 33 320f IC=0
C4 34 24 1m IC=2
V$IPROBE1 21 34 0.0
.PRINT I(V$IPROBE1)
.GRAPH IPROBE1#P axisType="grid" persistence=-1 curveLabel="IL" analysis="tran|pop" xLog="auto" yLog="lin"  nowarn=true disabled=false 
L1 19 20 150n
.PRINT V(#Vout)
.GRAPH :#Vout axisType="auto" persistence=-1 curveLabel="Vout" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe3  
.PRINT V(#Vc)
.PRINT V(#Vout)
.GRAPH "db(:#Vc/:#Vout)" Curvelabel="Gc" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(-:#Vc/:#Vout)" Curvelabel="Pc" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
.PRINT V(#Vc)
.PRINT V(#Vp)
.GRAPH "db(:#Vc/:#Vp)" Curvelabel="T" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(-:#Vc/:#Vp)" Curvelabel="T" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
R1 34 26 10
R2 26 25 618.18
R3 34 27 1.333
Rc1 24 0 1m
Rl1 21 20 2m
Ro1 34 0 200m
X$S1 18 19 22 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$S3 19 0 23 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$U1 22 23 0 32 28 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=1m VOL=0 VOH=5 DELAY=2p
V1 18 0 12
V2 30 0 5
V3 28 0 SAW V1=0 V2=1 FREQ=1000000 DELAY=0 OFF_UNTIL_DELAY=NO
V4 29 0 2
V5 32 33 AC 1m 0
X1 22 31 PERIODIC_OP vars: VREF=2.5 VOL=0 VOH=5 HYSTWD=2m DIVIDE_BY_2=0 IC=0 DELAY=0 TRIG_COND='0_TO_1'
X2 29 26 30 0 33 PARAM_OPAMP vars: LEVEL=2 VOS=0 IB=1p IBOS=100p A0=100Meg GBW=100Meg SR_POS=1Meg SR_NEG=100Meg CMRR=100Meg PSRR=100Meg RIN=100Meg IO_SRC_MAX=100m IO_SNK_MAX=5m ROUT=10 RO_AC=5 IQ=1m VDIFF_POS=10m VDIFF_NEG=10m USE_BACK_ANNO=1 DEF_IC_R_FF2=1 DEF_IC_R_FF3=1 BA_IC_R_FF2=2 BA_IC_R_FF3=2
.end
