* C:\Users\xiang\OneDrive - Virginia Tech\xiangzhang_VT_archive\ECE 5254 Modeling\HW-3-model\HW3_Ref_SR_Buck_2024.sxsch
*#SIMETRIX
.node_map Vc 32
.node_map Vp 31
.node_map Vout 30
.AC DEC 100 10 1Meg
.PRINT
+ ALL
.OPTIONS
+ PSP_START=180u
+ PSP_END=500u
+ PSP_NPT=1001
+ POP_ITRMAX=200
.POP
+ TRIG_GATE={TRIG_GATE}
+ TRIG_COND=0_TO_1
+ MAX_PERIOD=3u
+ CONVERGENCE=1u
+ CYCLES_BEFORE_LAUNCH=100
*.TRAN 2m 0


C 30 23 1.2 IC=2.4
C1 24 32 1n IC=0
I1 30 0 SQU V1=5 V2=15 FREQ=200 DELAY=0.0002 OFF_UNTIL_DELAY=NO
L 19 20 100n
.PRINT V(#Vc)
.PRINT V(#Vout)
.GRAPH "db(:#Vc/:#Vout)" Curvelabel="Gc" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(-:#Vc/:#Vout)" Curvelabel="Pc" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
.PRINT V(#Vc)
.PRINT V(#Vp)
.GRAPH "db(:#Vc/:#Vp)" Curvelabel="GT" nowarn=true yunit="dB" complete=True analysis="ac" axisname=bodemag ylog=lin  persistence=0
.GRAPH "ph(-:#Vc/:#Vp)" Curvelabel="PT" nowarn=true yunit="degrees" complete=True analysis="ac"  axisname=bodephase ylog=lin  persistence=0
R1 30 25 50k
R2 25 24 1k
Rc 23 0 1m
Rl 30 20 1m
Ro 30 0 1
X$S1 18 19 21 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$S2 19 0 22 0 SIMPLIS_VC_SWITCH vars: ROFF=1Meg RON=1u THRESHOLD=2 HYSTWD=1m IC='OPEN' LOGIC='POS'
X$U1 21 22 0 31 27 SIMPLIS_DIGI1_COMP_Y vars: IC=0 RIN=10Meg ROUT=10 HYSTWD=1m VOL=0 VOH=5 DELAY=2p
V1 18 0 5
V2 28 0 5
V3 27 0 SAW V1=0 V2=1 FREQ=1000000 DELAY=0 OFF_UNTIL_DELAY=NO
V4 26 0 1.2
V5 31 32 AC 1m 0
X1 21 29 PERIODIC_OP vars: VREF=2.5 VOL=0 VOH=5 HYSTWD=2m DIVIDE_BY_2=0 IC=0 DELAY=0 TRIG_COND='0_TO_1'
X2 26 25 28 0 32 PARAM_OPAMP vars: LEVEL=2 VOS=0 IB=1p IBOS=100p A0=100Meg GBW=100Meg SR_POS=1Meg SR_NEG=100Meg CMRR=100Meg PSRR=100Meg RIN=100Meg IO_SRC_MAX=100m IO_SNK_MAX=5m ROUT=10 RO_AC=5 IQ=1m VDIFF_POS=10m VDIFF_NEG=10m USE_BACK_ANNO=1 DEF_IC_R_FF2=1 DEF_IC_R_FF3=1 BA_IC_R_FF2=2 BA_IC_R_FF3=2
.end
